US04358307
A mixture of 4-[N-(6-chloroquinoxalin-2-yl)amino]phenol (10 mmole), ethyl 2-bromopropionate (10 mmole), anhydrous potassium carbonate (2.0 g) and methyl ethyl ketone (100 ml) was heated under reflux for a period of 12 hours. The mixture was filtered and the solvent was removed by distillation under reduced pressure. The residue was chromatographed over alumina (eluent dichloromethane) to give ethyl 2-{4-[N-(6-chloroquinoxalin-2-yl)amino]phenoxy}propionate, mp 136° C.

reactant | 4-[N-(6-chloroquinoxalin-2-yl)amino]phenol | 10 mmole | ClC=1C=C2N=CC(=NC2=CC1)NC1=CC=C(C=C1)O | C14H10ClN3O
reactant | ethyl 2-bromopropionate | 10 mmole | BrC(C(=O)OCC)C | C5H9BrO2
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | ethyl 2-{4-[N-(6-chloroquinoxalin-2-yl)amino]phenoxy}propionate | ClC=1C=C2N=CC(=NC2=CC1)NC1=CC=C(OC(C(=O)OCC)C)C=C1 | C19H18ClN3O3
